US07179823B1
A mixture of 4-benzyloxybenzyl chloride (11.60 g), ethyl 3-(4-fluorophenyl)-1H-pyrazole-4-carboxylate (11.70 g), potassium carbonate (13.80 g) and N,N-dimethylformamide (150 ml) was stirred at room temperature for 5 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The resulting colorless crystals were collected by filtration to obtain ethyl 1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazole-4-carboxylate (16.90 g, yield: 79%). This was recrystallized from ethyl acetate-hexane. Melting point: 103–104° C.

reactant | 4-benzyloxybenzyl chloride | 11.60 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | ethyl 3-(4-fluorophenyl)-1H-pyrazole-4-carboxylate | 11.70 g | FC1=CC=C(C=C1)C1=NNC=C1C(=O)OCC | C12H11FN2O2
reactant | potassium carbonate | 13.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-(4-benzyloxybenzyl)-3-(4-fluorophenyl)-1H-pyrazole-4-carboxylate | 16.90 g, yield: 79% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)C2=CC=C(C=C2)F)C=C1 | C26H23FN2O3
